US09422332B2
To a solution of (S)-2-((S)-2-amino-3-methyl-butyryl)-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2-chloro-6-fluoro-phenyl)-amide trifluoroacetate (48 mg, 92.7 μmol, Eq: 1.00), (S)-2-(tert-butoxycarbonylamino)propanoic acid (17.5 mg, 92.7 μmol, Eq: 1.00), HATU (38.8 mg, 102 μmol, Eq: 1.1) in DMF (300 μL) at 0° C. was added DIEA (35.9 mg, 48.6 μL, 278 μmol, Eq: 3). The reaction was stirred at RT for 1 h, diluted with water and extracted with EtOAc. The combined organics were washed with water, brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography to give ((S)-1-{(S)-1-[(S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carbonyl]-2-methyl-propylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester (36 mg) as a white foam.

reactant | (S)-2-((S)-2-amino-3-methyl-butyryl)-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2-chloro-6-fluoro-phenyl)-amide trifluoroacetate | 92.7 μmol, 48 mg | FC(C(=O)O)(F)F.ClC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CCC2=CC=CC=C12)C([C@H](C(C)C)N)=O
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 92.7 μmol, 17.5 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | HATU | 102 μmol, 38.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 278 μmol, 48.6 μL, 35.9 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ((S)-1-{(S)-1-[(S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carbonyl]-2-methyl-propylcarbamoyl}-ethyl)-methyl-carbamic acid tert-butyl ester | 36 mg | C(C)(C)(C)OC(N(C)[C@@H](C)C(N[C@@H](C(C)C)C(=O)N1[C@@H](C2=CC=CC=C2CC1)C(NC1=C(C=CC=C1F)Cl)=O)=O)=O | C30H38ClFN4O5
